US07531532B2
Benzyl N-{4-[6-(pyrrolidin-1-ylcarbonyl)aminopyrimidin-4-ylamino]phenyl]carbamate
Benzyl N-[4-(6-aminopyrimidin-4-ylamino)phenyl]carbamate (313 mg) was dissolved in tetrahydrofuran (10 ml) under a nitrogen atmosphere, and then triethylamine (0.78 ml) and phenyl chloroformate (0.35 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 30 min. To the reaction mixture were added pyrrolidine (1.0 ml) and N,N-dimethylformamide (2 ml), followed by further stirring at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate, then ethyl acetate:methanol=95:5) to provide the titled compound (210 mg, 52%) as pale yellow powder.

reactant | Benzyl N-[4-(6-aminopyrimidin-4-ylamino)phenyl]carbamate | 313 mg | NC1=CC(=NC=N1)NC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C18H17N5O2
reactant | triethylamine | 0.78 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.35 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 1.0 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Benzyl N-{4-[6-(pyrrolidin-1-ylcarbonyl)aminopyrimidin-4-ylamino]phenyl]carbamate | 210 mg, 52% | N1(CCCC1)C(=O)NC1=CC(=NC=N1)NC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C23H24N6O3
